US08258149B2
To a suspension of berberine hydrochloride (500 mg, 1.3 mmol) in anhydrous diethyl ether (50 mL) at 0° C. was added allylmagnesium chloride solution (1.7 M in tetrahydrofuran, 8 mL, 13 mmol) dropwise. After stirring at 0° C. for 30 min, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 8-allyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (250 mg, 49%). LC/MS m/e calcd for C23H23NO4 (M+H)+: 378.44, observed: 378.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.34 (t, J=6.32 Hz, 2 H) 2.66-2.75 (m, 1 H) 2.79-2.87 (m, 1 H) 3.26-3.32 (m, 1 H) 3.35-3.44 (m, 1 H) 3.78 (d, J=6.32 Hz, 6 H) 4.78-4.85 (m, 2 H) 4.86 (s, 1 H) 5.68-5.80 (m, 1 H) 5.87 (s, 1 H) 6.00 (d, J=3.54 Hz, 2 H) 6.68 (d, J=8.34 Hz, 1 H) 6.77 (s, 1 H) 6.84 (d, J=8.59 Hz, 1 H) 7.23 (s, 1 H).

reactant | berberine hydrochloride | 1.3 mmol, 500 mg | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | allylmagnesium chloride | 13 mmol, 1.7 M, 8 mL | C(C=C)[Mg]Cl
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 8-allyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 250 mg, 49% | C(C=C)C1C=2C(=C(C=CC2C=C2N1CCC1=CC3=C(C=C21)OCO3)OC)OC | C23H23NO4
